US07745641B2
In a similar manner to Step 2 of Example 6, 4-methanesulfonyloxy-5-methoxy-7-[1-(tert-butoxycarbonyl)-5-formylindol-2-yl]isoindolinone (100 mg, 0.200 mmol) was dissolved in acetonitrile (5.8 mL), and the solution was treated with 2-(ethylamino)ethanol (0.195 mL, 2.00 mmol), acetic acid (0.229 mL, 4.00 mmol) and sodium triacetoxyborohydride (212 mg, 1.00 mmol), followed by purification by preparative thin-layer chromatography (chloroform/methanol=4/1) to obtain 4-methanesulfonyloxy-5-methoxy-7-{1-(tert-butoxycarbonyl)-5-[N-(2-hydroxyethyl)-N-ethylaminomethyl]indol-2-yl}isoindolinone (68.3 mg, yield 60%).

reactant | 4-methanesulfonyloxy-5-methoxy-7-[1-(tert-butoxycarbonyl)-5-formylindol-2-yl]isoindolinone | 0.200 mmol, 100 mg | CS(=O)(=O)OC1=C2CNC(C2=C(C=C1OC)C=1N(C2=CC=C(C=C2C1)C=O)C(=O)OC(C)(C)C)=O | C24H24N2O8S
reactant | 2-(ethylamino)ethanol | 2.00 mmol, 0.195 mL | C(C)NCCO | C4H11NO
reactant | acetic acid | 4.00 mmol, 0.229 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 1.00 mmol, 212 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | acetonitrile | 5.8 mL | C(C)#N | C2H3N
product | 4-methanesulfonyloxy-5-methoxy-7-{1-(tert-butoxycarbonyl)-5-[N-(2-hydroxyethyl)-N-ethylaminomethyl]indol-2-yl}isoindolinone | 68.3 mg, yield 60% | CS(=O)(=O)OC1=C2CNC(C2=C(C=C1OC)C=1N(C2=CC=C(C=C2C1)CN(CC)CCO)C(=O)OC(C)(C)C)=O | C28H35N3O8S
